US07834051B2
tert-butyl[(1S)-2-cyclopropyl-1-methyl-2-oxoethyl]carbamate
A solution of tert-butyl{(1S)-1-[methoxy(methyl)carbamoyl]ethyl}carbamate (10.0 g) in tetrahydrofuran (110 mL) was cooled using dry ice/acetone under a nitrogen atmosphere, and 1.0 mol/L-cyclopropylmagnesium bromide/tetrahydrofuran solution (100 mL) was added. The mixture was warmed to room temperature and stirred for 5 hr, saturated aqueous ammonium chloride solution (200 mL) was added to the reaction solution, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=0→30%) to give the title compound as a yellow oil (yield: 3.65 g, 40%).

reactant | tert-butyl{(1S)-1-[methoxy(methyl)carbamoyl]ethyl}carbamate | 10.0 g | C(C)(C)(C)OC(N[C@@H](C)C(N(C)OC)=O)=O | C10H20N2O4
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | cyclopropylmagnesium bromide tetrahydrofuran | 100 mL | C1(CC1)[Mg]Br.O1CCCC1
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
product | tert-butyl[(1S)-2-cyclopropyl-1-methyl-2-oxoethyl]carbamate | yield: 3.65 g, 40% | C(C)(C)(C)OC(N[C@H](C(=O)C1CC1)C)=O | C11H19NO3
